US04350817
To a solution of 0.345 g. (0.15 g. atom) of sodium in 30 ml. of ethanol was added 4.8 g. of diethyl malonate. The mixture was stirred at room temperature for 5 minutes and then was evaporated in a rotary evaporator. The residue was dissolved in 30 ml. of N,N-dimethylformamide and 2.67 g. (0.015 mole) of 1-methyl-1H-4H-pyrido[2,3-d][1,3]-oxazine-2,4-dione was added. The mixture was heated under reflux for 10 minutes and the thick mixture was dissolved in 100 ml. of water. The solution was acidified with conc. hydrochloric acid and the precipitate which formed was collected, air dried, and a small amount of this 1.7 g. was recrystallized from ethanol to give the analytical sample of 4-hydroxy-1,2-dihydro-1-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester, m.p. 158°-160° C.

reactant | sodium | 0.15 g | [Na] | Na
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-methyl-1H-4H-pyrido[2,3-d][1,3]-oxazine-2,4-dione | 0.015 mole | CN1C(OC(C2=C1N=CC=C2)=O)=O | C8H6N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-hydroxy-1,2-dihydro-1-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester | OC1=C(C(N(C2=NC=CC=C12)C)=O)C(=O)OCC | C12H12N2O4
